US05445762
1-(2,2-Dimethylbutyroyl)-1-aza-4,7,10-trioxacyclododecane
Analogously to Example 14 from 1-aza-4,7,10-trioxacyclododecane and 2,2-dimethylbutyryl chloride.

reactant | 1-aza-4,7,10-trioxacyclododecane | N1CCOCCOCCOCC1 | C8H17NO3
reactant | 2,2-dimethylbutyryl chloride | CC(C(=O)Cl)(CC)C | C6H11ClO
product | 1-(2,2-Dimethylbutyroyl)-1-aza-4,7,10-trioxacyclododecane | CC(C(=O)N1CCOCCOCCOCC1)(CC)C | C14H27NO4
